US07001899B2
Preparation of (3-[(isoquinolin-1-carbonyl)amino]-2-oxo-2,3,4,7-tetrahydroazepin-1-yl) acetic acid ethyl ester (4):
(3-amino-2-oxo-2,3,4,7-tetrahydroazepin-1-yl) acetic acid methyl ester, 3, (0.365 g, 1.68 mmol) is dissolved in 1:1 CH2Cl2/DMF and 1-isoquinoline-carboxylic acid (1.4 g, 8.1 mmol), 1-hydroxybenzotriazole (0.35 g, 2.6 mmol), and 1-(3-dimethyl-aminopropyl)-3-ethyl-carbodiimide hydrochloride (0.5 g, 2.6 mmol) are added. The resulting solution is stirred at room temperature for 12 hours, diluted with EtOAc, washed with saturated NaHCO3 then brine, and dried (MgSO4). The solvent is removed in vacuo and the resulting residue is purified over silica gel (EtOAc/hexane) to afford the desired product.

reactant | (3-amino-2-oxo-2,3,4,7-tetrahydroazepin-1-yl) acetic acid methyl ester | COC(CN1C(C(CC=CC1)N)=O)=O | C9H14N2O3
reactant | 1-isoquinoline-carboxylic acid | 8.1 mmol, 1.4 g | C1(=NC=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | 1-hydroxybenzotriazole | 2.6 mmol, 0.35 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | CH2Cl2 DMF | C(Cl)Cl.CN(C)C=O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3-[(isoquinolin-1-carbonyl)amino]-2-oxo-2,3,4,7-tetrahydroazepin-1-yl) acetic acid ethyl ester | C(C)OC(CN1C(C(CC=CC1)NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C20H21N3O4
